US04720586
(a) 2-[3,4-Dimethoxy-2-(2-phenylethyl)phenyl]-4,5-dihydro-4,4-dimethyloxazole
A solution of phenylethyl magnesium bromide (1 M in tetrahydrofuran (40 ml) was added to a stirred solution of 4,5-dihydro 4,4-dimethyl-2-(2,3,4-trimethoxyphenyl) oxazole (5.3 g 0.02 M) in dry tetrahydrofuran under a nitrogen atmosphere. The mixture was stirred at 20° for 16 hours. Water (200 ml) was added and the aqueous phase thoroughly extracted with diethyl ether (3×200 ml). The organic solution was dried over magnesium sulphate, filtered and evaporated to leave an oil which was purified by column chromatography on SiO2 eluting with ether/petroleum ether (50/50) to give a colourless oil (6.2 g); MS m/e 339.

reactant | phenylethyl magnesium bromide | C1(=CC=CC=C1)CC[Mg]Br
reactant | 4,5-dihydro 4,4-dimethyl-2-(2,3,4-trimethoxyphenyl) oxazole | 0.02 M, 5.3 g | CC1(N=C(OC1)C1=C(C(=C(C=C1)OC)OC)OC)C | C14H19NO4
reactant | Water | 200 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-[3,4-Dimethoxy-2-(2-phenylethyl)phenyl]-4,5-dihydro-4,4-dimethyloxazole | 6.2 g | COC=1C(=C(C=CC1OC)C=1OCC(N1)(C)C)CCC1=CC=CC=C1 | C21H25NO3
